* Z:\mnt\design.r\spice\examples\2325-12.asc
V2 N001 0 PWL(0 0 .1u 5)
C1 OUT1 0 10p
Va+ N003 0 PWL(0 0 400u 4.096)
Va- N005 0 PWL(0 4.096 400u 0)
V1 N007 0 PULSE(0 1.8 227n .1n .1n 40n 199.5n)
Vsclk1 sclk1 0 PULSE(0 1.8 9.5n .1n .1n 4.65n 9.5n)
Bsclk N008 0 V=if(V(sclk2)>V(sclk1),V(sclk2),V(sclk1))
Vsclk2 sclk2 0 PULSE(0 1.81 11.875n .1n .1n 66.5n 199.5n)
V3 N002 0 1.8
C2 N004 0 10µ ic=4.096 Rser=10m
XU1 N001 N003 N005 N006 N004 N007 N008 OUT1 NC_01 N002 0 MP_02 N009 LTC2325-12
C3 N006 0 10p ic=4.096
V4 N009 0 3
.tran 400u
* SCLK and _CNV\nare shown in timing\ndiagram on page 15, 16\nof LTC2325-12 data sheet
.lib LTC2325-12.sub
.backanno
.end
